US07135484B2
tert-butyl (cis)-4-oxohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
(cis)-2-Benzylhexahydrocyclopenta[c]pyrrol-4(1H)-one, prepared as described in Heterocycles (1988), 27(3), 643–644, and di-tert-butyl-dicarbonate in methanol were treated with hydrogen gas in the presence of palladium hydroxide (20 wt. %). After completion of the reaction, the reaction vessel was purged with nitrogen and the catalyst removed by filtration. The filtrate was concentrated under reduced pressure to provide the title compound. 1H NMR (CDCl3, 300 MHz) δ 1.45 (s, 9H), 1.87 (m, 1H), 2.16 (m, 1H), 2.34–2.39 (m, 2H), 2.74 (m, 1H), 3.03 (m, 1H), 3.15 (br m, 1H), 3.42–3.74 (m, 3H).

reactant | (cis)-2-Benzylhexahydrocyclopenta[c]pyrrol-4(1H)-one | C(C1=CC=CC=C1)N1C[C@@H]2[C@H](C1)C(CC2)=O | C14H17NO
reactant | di-tert-butyl-dicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | tert-butyl (cis)-4-oxohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | O=C1CC[C@@H]2CN(C[C@@H]21)C(=O)OC(C)(C)C | C12H19NO3
